US08022062B2
7-Chloro-6-(2-trifluoromethylbenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 347 to react 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine with 2-trifluoromethylbenzyl bromide. Use a method similar to the General Procedure 1-4 to give the title compound as a waxy tan solid. MS (APCI+) m/z: 372 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 2-trifluoromethylbenzyl bromide | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
product | 7-Chloro-6-(2-trifluoromethylbenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=C(C=CC=C1)C(F)(F)F | InChI=1S/C18H17ClF3NS.ClH/c19-16-6-5-12-7-9-23-10-8-14(12)17(16)24-11-13-3-1-2-4-15(13)18(20,21)22;/h1-6,23H,7-11H2;1H
